US08030298B2
2,2-Dimethylpropionic acid 4-(3-benzyloxy-17-trifluoromethyl-estra-1,3,5(10),16-tetraen-15-yl)-butylester
Phosphorylchloride (0.25 ml; 200 μmol) was added to a solution of 2,2-Dimethylpropionic acid 4-(3-benzyloxy-17-hydroxy-17-trifluoromethyl-estra-1,3,5(10)-trien-15-yl)-butylester (80.0 mg; 136 μmol) in pyridine (2.50 ml) and the resulting mixture is heated under reflux for 24 h. Then, the mixture was allowed to cool to RT, diluted with ice water and extracted with ether. The combined organic phases were dried over MgSO4 and the solvent was evaporated. The residue was purified by column chromatography (SiO2, DCM) yielding the title compound (60.0 mg, 78%) as colourless oil.

reactant | Phosphorylchloride | 200 μmol, 0.25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,2-Dimethylpropionic acid 4-(3-benzyloxy-17-hydroxy-17-trifluoromethyl-estra-1,3,5(10)-trien-15-yl)-butylester | 136 μmol, 80.0 mg | C(C1=CC=CC=C1)OC1=CC=2CC[C@H]3[C@@H]4C(CC([C@@]4(C)CC[C@@H]3C2C=C1)(C(F)(F)F)O)CCCCOC(C(C)(C)C)=O | C35H45F3O4
solvent | pyridine | 2.50 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-Dimethylpropionic acid 4-(3-benzyloxy-17-trifluoromethyl-estra-1,3,5(10),16-tetraen-15-yl)-butylester | 60.0 mg, 78% | C(C1=CC=CC=C1)OC1=CC=2CC[C@H]3[C@@H]4C(C=C([C@@]4(C)CC[C@@H]3C2C=C1)C(F)(F)F)CCCCOC(C(C)(C)C)=O | C35H43F3O3
